US05521147
A solution of 27.9 grams (0.109 mole) of 5-chloro-2-ethoxycarbonyl-2,3-dihydro-3-hydroxy-2-methylbenzofuran in 200 mL of methylene chloride was stirred, and four drops of pyridine was added. The reaction mixture was cooled in an ice-water bath, and 19.4 grams (0.163 mole) of thionyl chloride was added dropwise. The reaction mixture was then stirred for about 30 minutes at the ice-water bath temperature, and allowed to warm to ambient temperature, where it stirred for about 18 hours. After this time the reaction mixture was concentrated under reduced pressure to a residue, which was diluted with water and ethyl acetate, and washed with a solution saturated with sodium bicarbonate. The aqueous layer was separated and washed with two portions of ethyl acetate. The organic layer and the ethyl acetate washes were combined and dried with magnesium sulfate. The mixture was filtered and the filtrate concentrated under reduced pressure to a residual oil, which was subjected to column chromatography on silica gel, with 1:9 ethyl acetate:heptane as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 27.3 grams of 3,5-dichloro-2-ethoxycarbonyl-2,3-dihydro-2-methylbenzofuran. The NMR spectrum was consistent with the proposed structure.

reactant | 5-chloro-2-ethoxycarbonyl-2,3-dihydro-3-hydroxy-2-methylbenzofuran | 0.109 mole, 27.9 grams | ClC=1C=CC2=C(C(C(O2)(C)C(=O)OCC)O)C1 | C12H13ClO4
reactant | thionyl chloride | 0.163 mole, 19.4 grams | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | pyridine | four drops | N1=CC=CC=C1 | C5H5N
product | 3,5-dichloro-2-ethoxycarbonyl-2,3-dihydro-2-methylbenzofuran | 27.3 grams | ClC1C(OC2=C1C=C(C=C2)Cl)(C)C(=O)OCC | C12H12Cl2O3
